US09145372B2
To a solution of 1-(2-(3,5-diphenylpyridazin-4-yl)oxazol-4-yl)ethanone (30 mg, 0.088 mmol) in methanol (4 mL), NaBH4 (8.4 mg, 0.176 mmol) was added at 0° C. and the reaction mixture was warmed to rt and stirred for 2 h. The reaction mixture was quenched in ice cold water, extracted with ethyl acetate (25 mL). The organic layer was washed with brine (1×5 mL), dried over Na2SO4 and concentrated under reduced pressure to obtain the crude product which was carried further without any purification gave 1-(2-(3,5-diphenylpyridazin-4-yl)oxazol-4-yl)ethanol (30 mg)

reactant | 1-(2-(3,5-diphenylpyridazin-4-yl)oxazol-4-yl)ethanone | 0.088 mmol, 30 mg | C1(=CC=CC=C1)C=1N=NC=C(C1C=1OC=C(N1)C(C)=O)C1=CC=CC=C1 | C21H15N3O2
reactant | NaBH4 | 0.176 mmol, 8.4 mg | [BH4-].[Na+]
solvent | methanol | 4 mL | CO | CH4O
product | 1-(2-(3,5-diphenylpyridazin-4-yl)oxazol-4-yl)ethanol | 30 mg | C1(=CC=CC=C1)C=1N=NC=C(C1C=1OC=C(N1)C(C)O)C1=CC=CC=C1 | C21H17N3O2
